US06252084B1
Approximately 1.5 g of Raney Ni was added to 1.5 g (4.0 mmol) of 1-decyl-5-methoxy-2-methyl-1H-indole-3-acetic acid hydrazide in 250 mL of EtOH and the mixture heated at reflux for 3 hours. After cooling the mixture was filtered and the filtrate concentrated at reduced pressure. The residue was crystallized from EtOAc/hexane to give 0.987 g (69% yield) of 1-decyl-5-methoxy-2-methyl-1H-indole-3-acetamide, mp, 110-111° C.

reactant | 1-decyl-5-methoxy-2-methyl-1H-indole-3-acetic acid hydrazide | 4.0 mmol, 1.5 g | C(CCCCCCCCC)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)NN)C | C22H35N3O2
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | 1-decyl-5-methoxy-2-methyl-1H-indole-3-acetamide | 0.987 g, 69% yield | C(CCCCCCCCC)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)C | C22H34N2O2
